US06008219
N-(4-Aminobutyl)-7-hydroxy-2-(R,S)-methylamino-1,2,3,4-tetrahydronaphthalene, dihydrobromide
A mixture of N-(4-aminobutyl)-7-methoxy-2-(R,S)-methylamino-1,2,3,4-tetrahydronaphthalene (0.79 g, 3.0 mmol) and aqueous HBr (48%; 20 ml) was heated at reflux for 5 h, then evaporated in vacuo to give the title compound (1.2 g, 100%).

reactant | N-(4-aminobutyl)-7-methoxy-2-(R,S)-methylamino-1,2,3,4-tetrahydronaphthalene | 3.0 mmol, 0.79 g | NCCCCN(C1CC2=CC(=CC=C2CC1)OC)C | C16H26N2O
reactant | HBr | 20 ml | Br | BrH
product | N-(4-Aminobutyl)-7-hydroxy-2-(R,S)-methylamino-1,2,3,4-tetrahydronaphthalene, dihydrobromide | 1.2 g, 100% | Br.Br.NCCCCN(C1CC2=CC(=CC=C2CC1)O)C | InChI=1S/C15H24N2O.2BrH/c1-17(9-3-2-8-16)14-6-4-12-5-7-15(18)11-13(12)10-14;;/h5,7,11,14,18H,2-4,6,8-10,16H2,1H3;2*1H
